US05561145
4-(o-acetamido-phenoxy)piperidine:
3-p-methoxyphenyl-5(S)-[(4-o-acetamido-phenoxypiperidino)methyl]-2-oxazolidinone, m.p. 98°-102°; [α]D =-22.5° (DMSO);

reactant | 3-p-methoxyphenyl-5(S)-[(4-o-acetamido-phenoxypiperidino)methyl]-2-oxazolidinone | COC1=CC=C(C=C1)N1C(O[C@H](C1)CN1CCC(CC1)OC1=C(C=CC=C1)NC(C)=O)=O | C24H29N3O5
solvent | DMSO | CS(=O)C | C2H6OS
product | 4-(o-acetamido-phenoxy)piperidine | C(C)(=O)NC1=C(OC2CCNCC2)C=CC=C1 | C13H18N2O2
